US07238716B2
1N Sodium hydroxide-methanol solution (2.4 ml) was added to 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid (1.0 g) and the mixture was heated to 40° C. The obtained solution was allowed to cool and acetone (10 ml) was added. The mixture was stirred at room temperature for 30 min and acetone (5 ml) was further added. The mixture was stirred at room temperature for 1 hr, and under ice-cooling for 1 hr. The precipitated crystals were collected by filtration, washed with acetone (10 ml) ice-cooled in advance, and dried under reduced pressure to give sodium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate as white crystals.

reactant | Sodium hydroxide methanol | 1N, 2.4 ml | [OH-].[Na+].CO
reactant | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 1.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | sodium 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)[O-])C=C1.[Na+] | InChI=1S/C25H22N2O5.Na/c1-17-22(27-25(32-17)19-6-3-2-4-7-19)16-30-21-11-9-18(10-12-21)15-31-24-20(14-23(28)29)8-5-13-26-24;/h2-13H,14-16H2,1H3,(H,28,29);/q;+1/p-1
